.subckt SIQW_15427285BA240 1 2
D1 1 2 led
.MODEL led D
+ IS=1.4332E-15
+ N=1.7255
+ RS=.58984
+ IKF=51.253E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
***********
.subckt SIQW_15427285BA242 1 2
D1 1 2 led
.MODEL led D
+ IS=1.6136E-15
+ N=3.4287
+ RS=.49775
+ IKF=42.063E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
***********
.subckt SIQW_15427294BA240 1 2 
D1 1 2 led
.MODEL led D
+ IS=679.98E-12
+ N=1.6878
+ RS=.70317
+ IKF=122.07E-9
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
***********
.subckt SIQW_15427294BA242 1 2 
D1 1 2 led
.MODEL led D
+ IS=129.92E-12
+ N=5
+ RS=.60289
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
***********
.subckt SIQW_15435385A9040 1 2 
D1 1 2 led
.MODEL led D
+ IS=101.01E-21
+ N=1.3002
+ RS=.28396
+ IKF=305.82
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
***********
.subckt SIQW_15435385A9042 1 2 
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.4081
+ RS=.20719
+ IKF=.13917
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
***********
.subckt SIQW_15437385AA540 1 2 
D1 1 2 led
.MODEL led D
+ IS=1.2507E-18
+ N=1.3296
+ RS=.18806
+ IKF=127.47
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
***********
.subckt SIQW_15437385AA542 1 2 
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.3721
+ RS=.19937
+ IKF=.11339
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
***********









